US08859776B2
To ethyl 5-(4-phenyl-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)pentanoate in ethanol was added 2.0 M NaOH aqueous solution and the mixture was stirred at 70° C. for 1 h. Then the solvent was removed in vacuo. The residue was redissolved in water, acidified with 6N HCl to PH ˜4, then extracted with EtOAc (2×30 ml), dried (MgSO4), concentrated, purified on Gilson, treated with 4.0 M HCl in dioxane (2-3 drops), lyophilized, to give 5-(4-phenyl-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)pentanoic acid A81 as white solid.

reactant | ethyl 5-(4-phenyl-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)pentanoate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=NC=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)CCCCC(=O)OCC | C39H45F6N3O5S
reactant | NaOH | 2.0 M | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-phenyl-1-((2R,3S)-2-propyl-1-(3-(trifluoromethyl)picolinoyl)-3-(5-(trifluoromethyl)thiophen-3-yloxy)piperidine-3-carbonyl)piperidin-4-yl)pentanoic acid | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)[C@]1([C@H](N(CCC1)C(C1=NC=CC=C1C(F)(F)F)=O)CCC)OC1=CSC(=C1)C(F)(F)F)CCCCC(=O)O | C37H41F6N3O5S
